US07842696B2
LiOH (92 mg, 0.22 mmol) was added to a stirred solution of 4-morpholin-4-yl-benzoic acid methyl ester (162 mg, 0.73 mmol) in THF:H2O (1:1, 4 mL), and the resulting mixture was stirred at room temperature for 20 hrs. The reaction mixture was concentrated under reduced pressure to get the residue. Cold water was then added and acidified it with 10% aqueous HCl, filtered the solid precipitated to afford 130 mg (86% yield) of 4-morpholin-4-yl-benzoic acid. 1H NMR (DMSO-d6): δ 12.4 (s, 1H), 7.8 (d, 2H), 7.0 (d, 2H), 3.76 (t, 4H), 3.28 (t, 4H).

reactant | LiOH | 0.22 mmol, 92 mg | [Li+].[OH-]
reactant | 4-morpholin-4-yl-benzoic acid methyl ester | 0.73 mmol, 162 mg | COC(C1=CC=C(C=C1)N1CCOCC1)=O | C12H15NO3
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | THF H2O | 4 mL | C1CCOC1.O
product | 4-morpholin-4-yl-benzoic acid | 130 mg, 86% yield | N1(CCOCC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
